US06620807B1
(5,11-Dihydro-benzo[b]pyrido [2.3-e][1,4]Diazepin-6-yl)-(2,3-dihydro-benzofuran-5-yl)-methanone
Prepared from 2,3-dihydro-benzofuran-5-carboxylic acid (0.328 g, 2 mmol) and 6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepine (0.398 g, 2 mmol) in a manner essentially identical to that of Example 1. The title compound was obtained as an off-white solid, m.p. 188° C., upon recrystallization from diethyl ether.

reactant | 2,3-dihydro-benzofuran-5-carboxylic acid | 2 mmol, 0.328 g | O1CCC2=C1C=CC(=C2)C(=O)O | C9H8O3
reactant | 6,11-dihydro-5H-pyrido[2,3-b][1,5]benzodiazepine | 2 mmol, 0.398 g | N1=CC=CC2=C1NC1=C(NC2)C=CC=C1 | C12H11N3
solvent | diethyl ether | C(C)OCC | C4H10O
product | (5,11-Dihydro-benzo[b]pyrido [2.3-e][1,4]Diazepin-6-yl)-(2,3-dihydro-benzofuran-5-yl)-methanone | N1=CC=CC2=C1NC1=C(N(C2)C(=O)C=2C=CC3=C(CCO3)C2)C=CC=C1 | C21H17N3O2
